US08669234B2
To the solution of 3-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (560 mg, 1.22 mmol) and 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (535 mg, 1.28 mmol) in 1,2-dimethoxyether (11 ml) and water (3.5 ml) was added sodium bicarbonate (343 mg, 4 mmol), followed by Pd(PPh3)4 (55 mg). The mixture was heated at 80° C. for 7 hours. The mixture was diluted with EtOAc, and was washed with water and brine, and was dried with sodium sulfate. Concentration and purification by flash column chromatography (DCM/MeOH) gave 4,4′-bis-[2-(2-tert-butoxycarbonyl-2-aza-bicyclo[2.2.1]hept-3-yl)-3H-imidazol-4-yl]-biphenyl (50 mg). m/z: 677.2 (M+H)+.

reactant | 3-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.22 mmol, 560 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C2 | C26H36BN3O4
reactant | 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.28 mmol, 535 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2 | C20H24BrN3O2
reactant | sodium bicarbonate | 4 mmol, 343 mg | C([O-])(O)=O.[Na+]
solvent | water | 3.5 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,4′-bis-[2-(2-tert-butoxycarbonyl-2-aza-bicyclo[2.2.1]hept-3-yl)-3H-imidazol-4-yl]-biphenyl | 50 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(C3CCC1C3)C(=O)OC(C)(C)C)C2 | C40H48N6O4
